US07713994B2
(Z)-4-((6-Bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methylamino)butanoic acid
A mixture of (E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (212 mg, 0.75 mmole), dimethylformamide (5 mL), and 4-aminobutanoic acid (78 mg, 0.75 mmole) is stirred at room temperature for 1 hour. The reaction mixture is diluted with ether, filtered, washed with fresh ether and dried to give a salmon solid, 164 mg, (61%), mp 260-2° C. dec; MS (ES+): m/z 353.0 (M+H).

reactant | (E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.75 mmole, 212 mg | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 4-aminobutanoic acid | 0.75 mmole, 78 mg | NCCCC(=O)O | C4H9NO2
solvent | ether | CCOCC | C4H10O
product | (Z)-4-((6-Bromo-1,3-dioxo-2,3-dihydroisoquinolin-4(1H)-ylidene)methylamino)butanoic acid | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCCCC(=O)O | C14H13BrN2O4
